US04178449
Ethyl 7-(p-ethylphenyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate
A mixture of 4.07 g. of 3-dimethylamino-4'-ethylacrylophenone and 3.10 g. of ethyl 3-aminopyrazole-4-carboxylate in 25 ml. of glacial acetic acid is refluxed for 20 hours. The compound is recovered from the reaction in the previously described fashion to yield crystals, m.p. 101°-103° C.

reactant | 3-dimethylamino-4'-ethylacrylophenone | CN(C=CC(=O)C1=CC=C(C=C1)CC)C | C13H17NO
reactant | ethyl 3-aminopyrazole-4-carboxylate | NC1=NNC=C1C(=O)OCC | C6H9N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 7-(p-ethylphenyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | C(C)C1=CC=C(C=C1)C1=CC=NC=2N1N=CC2C(=O)OCC | C17H17N3O2
